US04410539
Sodium hydride (4.70 g. of 50% dispersion in mineral oil) was added portionwise with stirring to a stirred solution of 6-methylindole-2-carboxylic acid methyl ester (18.0 g.) in dry N,N-dimethylformamide (100 ml.) and the mixture was stirred at room temperature for 1.5 hours. Acetyl chloride (8.0 g.) was then added dropwise with stirring and cooling and the resulting mixture was stirred at room temperature for 5 hours and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform first gave mineral oil followed by pure product. Evaporation of the product-containing fractions gave a solid which crystallized from methanol to give 1-acetyl-6-methylindole-2-carboxylic acid methyl ester (14.4 g.), m.p. 51°-53° C.

reactant | Sodium hydride | 4.70 g | [H-].[Na+]
reactant | 6-methylindole-2-carboxylic acid methyl ester | 18.0 g | COC(=O)C=1NC2=CC(=CC=C2C1)C | C11H11NO2
reactant | Acetyl chloride | 8.0 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-acetyl-6-methylindole-2-carboxylic acid methyl ester | 14.4 g | COC(=O)C=1N(C2=CC(=CC=C2C1)C)C(C)=O | C13H13NO3
